US07074800B1
A mixture of 4-chloro-6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)quinazoline (200 mg, 0.64 mmol), potassium carbonate (102 mg, 0.74 mmol) and 7-hydroxyquinoline (107 mg, 0.74 mmol) in DMSO (5 ml) was stirred at 100° C. for 5 hours and allowed to cool to ambient temperature. The mixture was poured into water, washed with dichloromethane and extracted twice with a 10/1 mixture of dichloromethane/methanol. The extracts were washed with water and brine, dried over magnesium sulphate, filtered and the filtrate evaporated under vacuum. The residue was purified by silica column chromatography, eluting with dichloromethane/methanol/0.880 aqueous ammonia (100/8/1) to give an oil which crystallised on trituration with ether to give 6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)-4-(quinolin-7-yloxy)quinazoline (148 mg, 55%).

reactant | 4-chloro-6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)quinazoline | 0.64 mmol, 200 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCOCCOC | C14H17ClN2O4
reactant | potassium carbonate | 0.74 mmol, 102 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 7-hydroxyquinoline | 0.74 mmol, 107 mg | OC1=CC=C2C=CC=NC2=C1 | C9H7NO
reactant | water | O | H2O
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)-4-(quinolin-7-yloxy)quinazoline | 148 mg, 55% | COC=1C=C2C(=NC=NC2=CC1OCCOCCOC)OC1=CC=C2C=CC=NC2=C1 | C23H23N3O5
